US07595311B2
8-carbamoylmethoxy-3-(4-fluorobenzoyl)-1,1-dimethyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester;
To prepare 3-(3,4-difluoro-benzoyl)-1,1-dimethyl-8-(3-hydroxy-propoxy)-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester, a mixture of 3-(4-fluorobenzoyl)-8-hydroxy-1,1-dimethyl-1,2,3,6-tetrahydroazepino[4,5-b]-indole-5-carboxylic acid ethyl ester (46 mg, 0.11 mmol), diisopropylethylamine (0.5 mL), and 3-bromo-1-propanol (1.4 mL) in dry acetonitrile (1 mL) was stirred at 75° C. for 10 hours. The solvent was removed in vacuo, and the residue was purified by preparative reverse-phase HPLC, which was then acylated in the manner described in Example 2A. 1HNMR (CDCl3): δ 10.51 (1H, s), 7.86 (1H, s), 7.82 (1H, d), 7.66-7.59 (2H, m), 7.15-7.09 (2H, m), 6.87 (1H, d), 6.74 (1H, m), 4.27-4.15 (4H, m), 4.09 (2H, brs), 3.90 (2H, m), 2.11-2.05 (2H, m), 1.60 (6H, s), 1.26-1.21 (3H, m). MS (ES): 481 (MH+).

reactant | 3-(3,4-difluoro-benzoyl)-1,1-dimethyl-8-(3-hydroxy-propoxy)-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN(CC(C2=C1NC=1C=C(C=CC21)OCCCO)(C)C)C(C2=CC(=C(C=C2)F)F)=O | C27H28F2N2O5
reactant | 3-(4-fluorobenzoyl)-8-hydroxy-1,1-dimethyl-1,2,3,6-tetrahydroazepino[4,5-b]-indole-5-carboxylic acid ethyl ester | 0.11 mmol, 46 mg | C(C)OC(=O)C1=CN(CC(C2=C1NC=1C=C(C=CC21)O)(C)C)C(C2=CC=C(C=C2)F)=O | C24H23FN2O4
reactant | diisopropylethylamine | 0.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-bromo-1-propanol | 1.4 mL | BrCCCO | C3H7BrO
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 8-carbamoylmethoxy-3-(4-fluorobenzoyl)-1,1-dimethyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN(CC(C2=C1NC=1C=C(C=CC21)OCC(N)=O)(C)C)C(C2=CC=C(C=C2)F)=O | C26H26FN3O5
